US07226931B2
Step 7. 8-(3-{1-[(1-tert-Butoxycarbonyl-piperidin-4-yl)-methyl-amino]-cyclopropyl}-pyrrolidin-1-yl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid
To a solution of 8-(3-{1-[(1-tert-butoxycarbonyl-piperidin-4-yl)-methyl-amino]-cyclopropyl}-pyrrolidin-1-yl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid ethyl ester (15 g, 24 mmol) in ethanol (200 mL) was added the solution of LiOH (10 g, 238 mmol) in water (100 mL) in a round bottom flask. The solution was heated at 60° C. for one hour. The resulting solution was partitioned between dichloromethane (400 mL) and saturated aqueous NH4Cl (200 mL) and well shaken. The organic layer was separated, washed with brine, dried over sodium sulfate and concentrated in vacuo to yield a yellow solid (14 g). This was used without further purification.

reactant | 8-(3-{1-[(1-tert-butoxycarbonyl-piperidin-4-yl)-methyl-amino]-cyclopropyl}-pyrrolidin-1-yl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid ethyl ester | 24 mmol, 15 g | C(C)OC(=O)C1=CC(=C2C(=C(C(=CN2C1=O)F)N1CC(CC1)C1(CC1)N(C)C1CCN(CC1)C(=O)OC(C)(C)C)C)C1CC1 | C34H47FN4O5
reactant | LiOH | 238 mmol, 10 g | [Li+].[OH-]
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
product | 8-(3-{1-[(1-tert-Butoxycarbonyl-piperidin-4-yl)-methyl-amino]-cyclopropyl}-pyrrolidin-1-yl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid | 14 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C1(CC1)C1CN(CC1)C=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)O)=O)F)C | C32H43FN4O5
